Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting

 
Major Surgical or Invasive Procedure:
TEE ___

 
History of Present Illness:
Ms. ___ is a ___ woman with no history H.pylori 
gastritis and benign parotid tumor s/p resection who presents 
for further evaluation of nausea, vomiting, and abdominal pain, 
subsequently found to have evidence of splenic infarct on 
imaging. 

Last ___, the patient arrived to ___ for vacation and two 
days later developed acute onset abdominal pain with associated 
nausea and NBNB vomiting. She had no associated diarrhea or 
fevers. Her vomiting continued for nearly two days every few 
hours and then resolved while her abdominal pain persisted 
shifting predominantly to her LUQ. No one in her travel party 
developed similar symptoms. Upon returning to the ___, 
her mother noticed that her eyes and skin appeared 
faintly-yellow. Due to these constellation of symptoms, she 
presented to the ED for further evaluation. 

In the ED, patient afebrile with stable vitals. Labs notable for 
stable BMP, slight leukocytosis of 11.4, stable Hg of 13.3, plt 
142, indirect hyperbilirubinemia, INR 1.3, and elevated retic 
count. hCG was negative. Imaging notable for CT a/p with 
Multiple low-attenuation regions throughout the spleen likely 
represent infarcts of unclear etiology as well as bilateral GGOs 
in the lungs. She was given IVF, opioids, and antiemetics. She 
was admitted to medicine for further evaluation. 

Upon meeting the patient, she provides the above history and 
states that she continues to have significant LUQ pain, but the 
medication is helpful. On ROS, she denies dysuria, hematuria, 
frequency. No vaginal discharge or bleeding. No fevers or 
chills. No chest pain or shortness of breath.
 
Past Medical History:
- benign parotid tumor s/p resection
- H. Pylori gastritis
 
Social History:
___
Family History:
PGF with thyroid Ca
MGF with prostate Ca
No h/o sickle cell disease
 
Physical Exam:
ADMISSION EXAM:
___ 1422 Temp: 99.0 PO BP: 141/94 R Lying HR: 107 RR: 18 O2
sat: 98% O2 delivery: RA 

GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
98.1 ___
GENERAL: Alert and in no apparent distress
EYES: Sclerae Anicteric, wearing eyeglasses
ENT: Ears and nose without visible external erythema, masses, or 
trauma. Oropharynx with MMM.
CV: Heart RRR, no m/g/r.
RESP: Lungs clear to auscultation with good air movement 
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender. Bowel sounds 
present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rash
NEURO: Alert, oriented, face symmetric, speech fluent, 
strength/sensation grossly in tact
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
===========
___ 10:47PM BLOOD WBC-11.4* RBC-3.88* Hgb-13.3 Hct-37.3 
MCV-96 MCH-34.3* MCHC-35.7 RDW-13.0 RDWSD-44.9 Plt ___
___ 10:47PM BLOOD Neuts-75.3* Lymphs-15.6* Monos-7.7 
Eos-0.3* Baso-0.7 Im ___ AbsNeut-8.62* AbsLymp-1.78 
AbsMono-0.88* AbsEos-0.03* AbsBaso-0.08
___ 02:04AM BLOOD ___ PTT-24.2* ___
___ 10:47PM BLOOD Ret Aut-4.7* Abs Ret-0.19*
___ 10:47PM BLOOD Glucose-121* UreaN-8 Creat-0.8 Na-136 
K-4.3 Cl-98 HCO3-24 AnGap-14
___ 10:47PM BLOOD ALT-12 AST-29 LD(LDH)-450* AlkPhos-54 
TotBili-3.4* DirBili-0.3 IndBili-3.1
___ 10:47PM BLOOD Hapto-50
___ 10:47PM BLOOD Lipase-18
___ 10:47PM BLOOD Albumin-4.6
___ 10:28PM URINE Color-Straw Appear-Clear Sp ___
___ 10:28PM URINE Blood-SM* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-40* Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 10:28PM URINE RBC-6* WBC-2 Bacteri-FEW* Yeast-NONE 
Epi-3

INTERVAL LABS:
==========
___ 07:50AM BLOOD Polychr-1+* Echino-1+* RBC Mor-WITHIN NOR
___ 07:50AM BLOOD Hb A-DONE Hb S-PND Hb C-PND Hb A2-PND Hb 
F-PND
___ 07:50AM BLOOD ___ Thrombn-12.8
___ 07:05AM BLOOD Parst S-NEGATIVE
___ 09:25PM BLOOD Parst S-NEGATIVE
___ 07:50AM BLOOD Sickle-POS*
___ 06:14AM BLOOD Ret Aut-4.4* Abs Ret-0.15*
___ 07:50AM BLOOD Lupus-NOTDETECTE dRVVT-S-1.10 SCT-S-1.02
___ 07:05AM BLOOD ALT-8 AST-14 LD(LDH)-311* AlkPhos-42 
TotBili-1.7* DirBili-0.3 IndBili-1.4
___ 09:00AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-POS* 
IgM HAV-NEG
___ 09:25PM BLOOD ___
___ 07:50AM BLOOD CMV IgG-PND CMV IgM-PND CMVI-PND Trep 
Ab-POS*
___ 07:05AM BLOOD EBV IgG-POS* EBNA-POS* EBV IgM-NEG 
EBVI-Results in
___ 09:25PM BLOOD HIV Ab-NEG
___ 07:50AM BLOOD PARVOVIRUS B19 ANTIBODIES (IGG & IGM)-PND
___ 09:00AM BLOOD DENGUE FEVER ANTIBODIES (IGG, IGM)-PND
___ 09:00AM BLOOD CHIKUNGUNYA ANTIBODIES W/ REFLEX(ES) TO 
TITER-NEGATIVE      
___ 09:25PM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-WNL     
___ 09:25PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-WNL     
 

MICROBIOLOGY:
===========
___ PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
      To ensure specificity, specimen’s positive by treponemal 
EIA and
      negative by RPR will be reflexed to the TP-PA (treponemal 
pallidum
      particle agglutination) test, performed at the ___ 
___
      ___, unless the patient had a prior reactive TP-PA 
result. 

   TREPONEMAL ANTIBODY TEST (Preliminary):    SENT TO STATE. 

___- NEGATIVE by Latex Agglutination.
___ Culture, Routine X2-PENDING
___ (Malaria)Malaria Antigen Test- 
NEGATIVE
___ CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING:
======
LIVER OR GALLBLADDER US (SINGLE ORGAN)Study Date of ___
Normal abdominal ultrasound.

CT ABD & PELVIS WITH CONTRASTStudy Date of ___
1. Multiple low-attenuation regions throughout the spleen likely 
represent infarcts of unclear etiology.
2. Bibasilar ground-glass opacities within the lungs are likely 
infectious or inflammatory, and could represent 
aspiration/pneumonia in the setting of recent emesis, although 
its appearance is atypical for such.
3. Metallic foreign body within the cecum may represent a coin 
or ring, or high density tablet.  If indicated, this could be 
better evaluated or followed with abdominal radiographs.
4. Moderate pelvic free fluid may be physiologic.

ABD (SINGLE VIEW ONLY)Study Date of ___
Dilated transverse colon, consistent with ileus.  No retained 
metallic object

CT CHEST W/CONTRASTStudy Date of ___
Near complete resolution of the ground-glass opacities in both 
lower lobes on the right middle lobe, most likely represents 
resolved aspiration or atelectasis.  No new consolidations.

TTE Study Date of ___
Normal study. Normal biventricular cavity sizes and 
regional/global biventricular
systolic function. No valvular pathology or pathologic flow 
identified. Bubble study negative at rest and with valsalva, 
possible R-L shunt with cough, however image quality poor during 
the cough.

BILAT LOWER EXT VEINSStudy Date of ___
No evidence of deep venous thrombosis in the right or left lower 
extremity veins.

TEE Study Date of ___
No structural cardiac source of embolism (e.g.patent foramen 
ovale/atrial septal
defect, intracardiac thrombus, or vegetation) seen.
 
Brief Hospital Course:
Ms. ___ is a ___ with PMH H.pylori gastritis and 
benign parotid tumor s/p resection who presented with acute 
nausea/vomiting and abdominal pain, subsequently found to have 
evidence of splenic infarcts on CT scan and hemolysis, 
ultimately thought related to sickle cell trait.

ACUTE/ACTIVE PROBLEMS:
=======================
# Splenic infarcts
# Hemolysis 
# Left upper quadrant pain
# Nausea/vomiting
Patient became acutely ill on vacation in ___ with acute 
onset abdominal pain, nausea and NBNB vomiting. After return, 
family noticed jaundice and she presented to the ED. During 
workup of her abdominal pain, multiple low-attenuation regions 
consistent with splenic infarcts were noted. Labs showed 
evidence of hemolysis. Initial differential was broad, including 
autoimmune (including G6PD, PNH), infectious, cardioembolic. 
Hematology and Infectious Disease were consulted for assistance 
with workup. 

Hemolytic workup: Hb Electrophoresis showed positive Sickle Cell 
Preparation, rest of panel pending on discharge, thought most 
likely to be sickle cell trait (given absence of sickling on 
peripheral smear), which could explain her hemolysis and 
infarcts in the setting of the stress of her acute illness. 
Hypercoagulable workup negative with Lupus Anticoagulant, dRVVT, 
SCT, Beta-2-Glycoprotein 1 Antibodies (IgA, IgM, IgG), 
Cardiolipin Antibodies (IgG, IgM), ___, Coombs all negative. 
Thrombin was normal. 

Infectious Disease workup: Negative for HIV, Chikungunya 
Antibodies, Monospot, Malaria Antigen Test, 2 parasite smears. 
EBV and HAV Abs indicated past exposure. Immune to HBV. 
Treponemal Ab was positive, RPR negative, confirmatory testing 
sent to state lab, but this was felt likely to be a false 
positive so treatment was deferred. Urine culture contaminated. 
Dengue Fever Antibodies (IgG, IgM), Parvovirus B19 Antibodies, 
CMV IgG/IgM, Blood cultures were pending on discharge. 

Cardioembolic source was considered, TTE overall normal but 
given PFO could not be entirely ruled out on TTE with bubble, 
TEE was pursued, completed ___ without abnormality. She had no 
DVTs on U/S.

Her abdominal pain improved with oxycodone, tylenol, n/v, 
icterus resolved by discharge. Daily hemolysis labs were trended 
per Hematology recommendation. She was instructed to stay well 
hydrated to prevent sickling.

# Cecal foreign body s/p passage 
CT scan on admission with reported metallic foreign body in the 
cecum noted incidentally. Specimen was passed in stool and it 
did not appear metallic. KUB did not show retained contents. 
Patient denied swallowing anything metallic. Did not seem 
related to her abdominal pain.

# Constipation/Ileus
Likely in the setting of opioids. Some concern for ileus on KUB. 
Patient was able to move her bowels with bowel regimen, 
continued on discharge while on opioids.

# Suspected aspiration pneumonitis, resolved 
CT a/p captured GGOs at bilateral bases. Suspected due to recent 
multiple vomiting episodes. Patient afebrile without productive 
cough. CT Chest completed with resolution. Antibiotics were 
deferred given clinical wellness.

TRANSITIONAL ISSUES:
====================
[] Followup remaining workup: Dengue Fever Antibodies (IgG, 
IgM), Parvovirus B19 Antibodies, CMV IgG/IgM, Blood cultures, 
Syphilis testing
[] State micro labs contact numbers for results of Syphilis 
testing (should be ready in ___ days from ___: microbiology 
supervisor: ___ ___ lab supervisor: ___.
[] She will have followup with hematology and infectious 
disease. ___ consider testing for G6PD at that time when no 
longer hemolyzing, but seems less necessary based on positive 
Sickle Preparation.
[] Discharged with short course of oxycodone for abdominal pain.
[] Unclear if patient's sexual partner monogamous based on 
history, would encourage partner to be tested if concerns, 
reinforce safe sex practices 

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.

>30 minutes spent on coordination of care, counseling, and 
discharge planning on day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*20 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
may request partial fill, do not drive when taking this 
medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth three times a day Disp 
#*10 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID 
RX *sennosides [Senokot] 8.6 mg 1 tab by mouth twice a day Disp 
#*20 Tablet Refills:*0 
5.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
# Splenic infarcts
# Hemolysis 
# Abdominal pain, nausea/vomiting
# Cecal foreign body s/p passage 
# Constipation/Ileus
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

We admitted you to the hospital after you had been very ill in 
___. 

We conducted a lot of tests while you were here, and have 
concluded that it is possible that you have sickle cell trait or 
sickle cell disease. This likely caused the blood to break apart 
in the vessels (hemolysis) and the problem in your spleen.

When you leave the hospital, please:
 
**** PLEASE STAY WELL HYDRATED TO PREVENT ANOTHER EPISODE ****

- see below for followup appointments and medicines
- let your primary doctor know if you have any further yellowing 
of the eyes or worsening of your abdominal pain
- as we discussed, you can take oxycodone but be sure to not 
drive and follow other instructions. Oxycodone can make you 
constipated so please take a stool softener.

We wish you the best with your health,
___ Medicine
 
Followup Instructions:
___